US07652125B2
In a 2 L four-neck flask provided with a thermometer, a Dimroth condenser and an agitator, 64.8 g of 4,6-di(3,5-dimethyl-1-adamantyl)-1,3-bis(4-amino-3-hydroxyphenoxy)benzene (0.10 mol) obtained in Synthesis example 2 was dissolved in 800 g of dried N-methyl-2-pyrrolidone under nitrogen flow followed by the addition of 17.4 g of pyridine (0.22 mol). The mixture was heated to 60° C. and 31.6 g of 5,5′,7,7′-tetramethyl-1,1′-biadamantane-3,3′-dicarboxylic acid chloride (0.070 mol) was gradually added and then agitated at 60° C. for three hours. 7.57 g of 5-phenylethynyl-isophthalic acid chloride (0.025 mol) was gradually added with the inner temperature of the flask kept at 5° C. or below in an ice bath. Then, 2.10 g of benzoic acid chloride (0.015 mol) was added with the inner temperature of the flask kept at 5° C. or below. A reaction solution was added to 4 L of distilled water in small droplets followed by collecting and drying precipitate, thus obtaining a benzoxazole resin precursor.

reactant | pyridine | 0.22 mol, 17.4 g | N1=CC=CC=C1 | C5H5N
reactant | 5,5′,7,7′-tetramethyl-1,1′-biadamantane-3,3′-dicarboxylic acid chloride | 0.070 mol, 31.6 g | CC12CC3(CC(CC(C1)(C3)C)(C2)C23CC1(CC(CC(C2)(C1)C)(C3)C)C(=O)Cl)C(=O)Cl | C26H36Cl2O2
reactant | 5-phenylethynyl-isophthalic acid chloride | 0.025 mol, 7.57 g | C1(=CC=CC=C1)C#CC=1C=C(C=C(C(=O)Cl)C1)C(=O)Cl | C16H8Cl2O2
reactant | benzoic acid chloride | 0.015 mol, 2.10 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | N-methyl-2-pyrrolidone | 800 g | CN1C(CCC1)=O | C5H9NO
solvent | water | 4 L | O | H2O
product | benzoxazole | O1C=NC2=C1C=CC=C2 | C7H5NO
